2162-05-20 08:24:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-5-20**] 06:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2162-5-20**] 06:39 AM
   Propofol - [**2162-5-20**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-20**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 117 (101 - 143) bpm
   BP: 122/69(81) {122/69(81) - 156/87(100)} mmHg
   RR: 22 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,680 mL
   PO:
             TF:
   IVF:
   1,680 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,360 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 222 (222 - 222) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.6 L/min
   Physical Examination
   Gen: Intubated, sedated
   HEENT: Small abbrasion left forhead,  ETT tube, PERRL, mild erythema of
   conjunctiva
   Heart: Tachy s1s2 no m/r/g appreciate
   Lungs: CTA anteriorly
   Abd: Soft, NT, ND, no organomegally appreciated
   Ext: No c/c/e
   Neuro: Sedated, per report moves all 4 extermities
   Labs / Radiology
   10.5 g/dL
   81 K/uL
   101 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.9 mEq/L
   5 mg/dL
   98 mEq/L
   134 mEq/L
   32.3 %
   2.1 K/uL
        [image002.jpg]
                             [**2162-5-20**]  03:35 AM
   WBC
   2.1
   Hct
   32.3
   Plt
   81
   Cr
   0.5
   Glucose
   101
   Other labs: PT / PTT / INR:13.5/33.1/1.2, Differential-Neuts:52.8 %,
   Lymph:42.2 %, Mono:3.4 %, Eos:0.9 %
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-20**] 06:00 AM
   20 Gauge - [**2162-5-20**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2162-05-21 07:22:00 Physician Resident Progress Note
Chief Complaint: none
   24 Hour Events:
 BLOOD CULTURED - At [**2162-5-21**] 05:12 AM
 SPUTUM CULTURE - At [**2162-5-21**] 05:12 AM
 URINE CULTURE - At [**2162-5-21**] 05:12 AM
   - weaned Ativan
   - loaded dilantin
   - dilantin level 14
   - neuro curbside: one day of dilantin 100 TID day 0; then overlap
   keppra 500 [**Hospital1 **] day 1, 750mg [**Hospital1 **] Day 2, 1,000mg [**Hospital1 **] day 3 and then DC
   dilantin
   - spiked a fever to 101 at 0400, blood cx  and Ucx ordered, CXR
   ordered; UA neg
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-20**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2162-5-21**] 12:42 AM
   Dilantin - [**2162-5-21**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 81 (81 - 117) bpm
   BP: 114/73(83) {111/65(77) - 137/85(96)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,296 mL
                                                                    141 mL
   PO:
             TF:
   IVF:
                                                                  3,296 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    410 mL
   Urine:
                                                                  1,610 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 712 (222 - 712) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.43/43/265/22/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 662
   Physical Examination
   General - disheveled man in NAD
   HEENT - NC/AT, PERRL, sclera anicteric, dry MM, mild bruising on
   forehead
   Neck - supple, no LAD
   Lungs - CTA bilat, no r/rh/wh
   Heart - RRR, nl S1-S2, no MRG
   Abdomen - NABS, soft/NT/ND, HSM not assessed
   Extrem - WWP, no c/c/e, 2+ pedal pulses
   Neuro
 sedated but responds to commands
   Labs / Radiology
   64 K/uL
   10.3 g/dL
   89 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   3 mg/dL
   103 mEq/L
   135 mEq/L
   31.2 %
   2.8 K/uL
        [image002.jpg]
                             [**2162-5-20**]  03:35 AM
                             [**2162-5-20**]  11:33 AM
                             [**2162-5-20**]  06:38 PM
                             [**2162-5-21**]  05:00 AM
   WBC
   2.1
   2.8
   Hct
   32.3
   31.6
   31.2
   Plt
   81
   64
   Cr
   0.5
   0.5
   TCO2
   29
   Glucose
   101
   89
   Other labs: PT / PTT / INR:13.1/34.0/1.1, CK / CKMB / Troponin-T:268//,
   ALT / AST:114/172, Alk Phos / T Bili:299/0.8, Amylase / Lipase:92/66,
   Differential-Neuts:52.8 %, Lymph:42.2 %, Mono:3.4 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:325 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.3 mg/dL
   UA: neg leuk, neg nitrites
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   41-yo man w/ EtOH abuse and h/o withdrawal seizures, as well as ?
   underlying seizure d/o, who was brought in to the ED when he was found
   slumped over in his wheelchair, drunk and drenched in urine. He
   proceeded to have a seizure in the ED, and is admitted for EtOH
   withdrawal seizure.
   .
   #. Seizure - Likely [**2-22**] EtOH withdrawal given story and presentation,
   but the pt does have a ? underlying seizure d/o and previously treated
   w/ Dilantin, so this may not simply be just an EtOH withdrawal seizure.
   NCHCT is reassuring. Was loaded on Dilantin. Will need to transition to
   Keppra given risk of cerebellar atrophy with chronic dilantin and
   alcohol.
   - will try to extubate
   - restart Ativan CIWA
   - one day of dilantin 100 TID and overlap keppra 500 [**Hospital1 **] day 1, 750mg
   [**Hospital1 **] Day 2, 1,000mg [**Hospital1 **] day 3 and then DC dilantin
   .
   #. EtOH abuse - chronic.
   - banana bag daily
   - NPO / IVF
   - SW c/s when wakes up
   .
   # Fever:  CXR clear, UA neg, LFT
s trending down
   - f/u cultures
   .
   #. Pancytopenia - Pt newly leukopenic and thrombocytopenic, as well as
   anemic on repeat bloodwork. Considering that all cell lines down,
   likely bone marrow suppression [**2-22**] chronic EtOH abuse. PLT still
   trending down, documented at 158 at [**Hospital1 49**] on [**2162-5-14**]
   - hold heparin
   -if PLT keep trending down will consider sending HIT
   - obtain HIV
   - continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-20**] 06:00 AM
   20 Gauge - [**2162-5-20**] 08:15 AM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:  chlorhexadaine
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-05-21 07:48:00 Physician Attending Progress Note
Patient seen, examined and case discussed with ICU resident.  I agree
   with his/her assessment and plan.
   Chief Complaint: Etoh and Seizure
   HPI: 40 yo male hx of etoh and etoh seizure disorder.  Found in
   wheelchair, intoxicated, in his own urine.  Seized in the setting of
   etoh withdrawl and intubated for prolonged seizure
   24 Hour Events:
   Turned off ativan and weaned down to 1mg then off to propofol.  Loaded
   with dilanting and placed on TID with transition to keppra.
   Increased secretions.
   Spike fever to 101 cultures ordered.
 BLOOD CULTURED - At [**2162-5-21**] 05:12 AM
 SPUTUM CULTURE - At [**2162-5-21**] 05:12 AM
 URINE CULTURE - At [**2162-5-21**] 05:12 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-20**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2162-5-21**] 12:42 AM
   Dilantin - [**2162-5-21**] 12:42 AM
   Other medications:
   ativan off
   chlorhex
   Dilantin 100 Q8
   Keppra 500mg iv Q12
   Changes to medical and family history:
   See H+P no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated unable to obtain
   Flowsheet Data as of  [**2162-5-21**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 81 (81 - 117) bpm
   BP: 114/73(83) {111/65(77) - 137/85(96)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,296 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                  3,296 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    410 mL
   Urine:
                                                                  1,610 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 712 (222 - 712) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.43/43/265/22/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 662
   Physical Examination
   Gen: Intubated and sedated
   HEENT: Small abrasion on left forehead, PERRL, mild erythema of
   conjunctiva, ETT in place
   Lungs: CTA anteriorly
   CV: Tachy, s1,S2 no m/r/g appreciated
   Abd: Soft, NT, ND no organomegaly appreciated
   Ext: No c/c/e
   Neuro: Moves all 4 extermities per report.
   Labs / Radiology: Chest ETT elevated but lungs clear no focal
   infiltrates.
   10.3 g/dL
   64 K/uL
   89 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   3 mg/dL
   103 mEq/L
   135 mEq/L
   31.2 %
   2.8 K/uL
        [image002.jpg]
                             [**2162-5-20**]  03:35 AM
                             [**2162-5-20**]  11:33 AM
                             [**2162-5-20**]  06:38 PM
                             [**2162-5-21**]  05:00 AM
   WBC
   2.1
   2.8
   Hct
   32.3
   31.6
   31.2
   Plt
   81
   64
   Cr
   0.5
   0.5
   TCO2
   29
   Glucose
   101
   89
   Other labs: PT / PTT / INR:13.1/34.0/1.1, CK / CKMB / Troponin-T:268//,
   ALT / AST:114/172, Alk Phos / T Bili:299/0.8, Amylase / Lipase:92/66,
   Differential-Neuts:52.8 %, Lymph:42.2 %, Mono:3.4 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:325 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.3 mg/dL
   retic 1.7
   UA-neg
   Sputum-oral flora
   Assessment and Plan
   41-yo man w/ EtOH abuse and h/o withdrawal seizures, as well as ?
   underlying seizure d/o presents with seizure in the setting of etoh
   level of 100.
   #Fever-Pan cultured will follow results.  Neck supple will follow MS
   post propofol.
   -ID-f/u RPR (do not suspect related to fever)
   #. Seizure
 Agree Likely [**2-22**] EtOH withdrawal given, but the pt does
   have a ? underlying seizure d/o and previously treated w/ Dilantin and
   transitioning to keppra
   - Will hold propofol and PRN ativan for signs off withdrawl
   #. EtOH abuse - chronic.
   - banana bag daily
   -Thiamine 100mg IV x 3 days/MVI/Folate
   - SW c/s once extubated
   -PRN ativan for CIWA scale
   # Respiratory-
   -Wean sedation and goal to extubate
   #. Pancytopenia
 hx of leukopenic and thrombocytopenic, as well as
   anemic on repeat bloodwork. Considering that all cell lines down,
   likely bone marrow suppression [**2-22**] chronic EtOH abuse.
   - F/U  retic
   -recheck HIV
   -Will recheck plt and if trending down will check Hit
   #abnormal LFTs-Hx of Hep C
   -Suspect etoh and Hep c
   #FEN
   -npo will advance feeds once awake.
   -Replete lytes.
   -Bannana bag
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-20**] 06:00 AM
   20 Gauge - [**2162-5-20**] 08:15 AM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :  Will discuss with social worker.
   Total time spent:
   ------ Protected Section ------
   Attending note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   41-yo  man w/ EtOH abuse and h/o withdrawal seizures, as well as ?
   underlying seizure d/o presents with seizure in the setting of etoh
   level of 100.  Hx of hep C, alcohol abuse x 25yrs, hx of incarceration,
   suicide attempts, seizures, no known cirrhosis, previously on Dilantin
   transitioned to Kepra but felt to be noncompliant. Found slumped over,
   alcohol level in 568, started CIWA scale, IV fluids, then seized in ED.
   Transferred to MICU where he seized again with pink, mucus phlegm
   emanating from mouth, unresponsive, intubated for airway protection.
   Overnight, Tm 101, off propofol this AM, started Keppra.
   Put on PSV 5/5 this AM, tolerating well, somnolent but easily
   arousable. Vitals stable, BP 120/80, HR 93, ecchymosis over left eye,
   lungs CTA, HS reg, no stigmata of cirrhosis, moving 4 extremities.
   Labs sifgnificant for wbc 2.8, plt 64, hct 31.2.
   Imp - Seizure likely alcholol withdrawal but has known seizure disorder
   as well.
   Respiratory failure with intubation initially for airway protection.
   Will likely extubate today.
   Pancytopenia
 likely alcohol related, unknown baselines but [**5-14**] labs
   at [**Hospital1 49**] show similar wbc (2.2), platelets were 158. Would recheck HIV
   when consentable. RPR pending.
   Alcohol withdrawal
 will need to be put back on CIWA scale, watch for
   signs of withdrawal.
   Patient is critically ill. Total time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2162-5-21**] 12:33 ------

2162-05-22 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-5-21**] 12:30 PM
   - extubated
   - needed minimal ativan for CIWA but was agitated in the evening and
   gave some extra ativan
   - ? having some mild hallucinations -- received ativan
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-21**] 08:00 AM
   Dilantin - [**2162-5-21**] 04:00 PM
   Lorazepam (Ativan) - [**2162-5-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-22**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (63 - 95) bpm
   BP: 148/83(100) {118/77(86) - 148/97(107)} mmHg
   RR: 12 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,723 mL
                                                                    656 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,483 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    800 mL
   Urine:
                                                                  2,010 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 594 (562 - 610) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.7 L/min
   Physical Examination
   General - disheveled man in NAD
   HEENT - NC/AT, PERRL, sclera anicteric, dry MM, mild bruising on
   forehead
   Neck - supple, no LAD
   Lungs - CTA bilat, no r/rh/wh
   Heart - RRR, nl S1-S2, no MRG
   Abdomen - NABS, soft/NT/ND, HSM not assessed
   Extrem - WWP, no c/c/e, 2+ pedal pulses
   Neuro - sedated but responds to commands
   Labs / Radiology
   54 K/uL
   10.2 g/dL
   103 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   4 mg/dL
   100 mEq/L
   131 mEq/L
   31.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2162-5-20**]  03:35 AM
                             [**2162-5-20**]  11:33 AM
                             [**2162-5-20**]  06:38 PM
                             [**2162-5-21**]  05:00 AM
                             [**2162-5-22**]  03:37 AM
   WBC
   2.1
   2.8
   4.0
   Hct
   32.3
   31.6
   31.2
   31.1
   Plt
   81
   64
   54
   Cr
   0.5
   0.5
   0.5
   TCO2
   29
   Glucose
   101
   89
   103
   Other labs: PT / PTT / INR:13.1/34.0/1.1, CK / CKMB / Troponin-T:207//,
   ALT / AST:89/107, Alk Phos / T Bili:278/0.9, Amylase / Lipase:92/193,
   Differential-Neuts:52.8 %, Lymph:42.2 %, Mono:3.4 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:325 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   41-yo man w/ EtOH abuse and h/o withdrawal seizures, as well as ?
   underlying seizure d/o, who was brought in to the ED when he was found
   slumped over in his wheelchair, drunk and drenched in urine. He
   proceeded to have a seizure in the ED, and is admitted for EtOH
   withdrawal seizure.
   #. Seizure - Likely [**2-22**] EtOH withdrawal given story and presentation,
   but the pt does have a ? underlying seizure d/o and previously treated
   w/ Dilantin, so this may not simply be just an EtOH withdrawal seizure.
   NCHCT is reassuring. Was loaded on Dilantin. Will need to transition to
   Keppra given risk of cerebellar atrophy with chronic dilantin and
   alcohol. Extubated successfully yesterday, minimal si/sx of withdrawal.
   - cont Ativan CIWA
   - one day of dilantin 100 TID and overlap keppra 500 [**Hospital1 **] day 1, 750mg
   [**Hospital1 **] Day 2, 1,000mg [**Hospital1 **] day 3 and then DC dilantin
   # Fever:  CXR clear, UA neg, LFT
s trending down
   - f/u cultures
   # Hyponatremia: new for pt, although not dramatic
   - f/u urine lytes
   #. EtOH abuse - chronic.
   - ADAT, cont IVF PRN
   - MVI/thiamine/folate
   - SW c/s when wakes up
   #. Pancytopenia - Pt newly leukopenic and thrombocytopenic, as well as
   anemic on repeat bloodwork. Considering that all cell lines down,
   likely bone marrow suppression [**2-22**] chronic EtOH abuse. PLT still
   trending down, documented at 158 at [**Hospital1 49**] on [**2162-5-14**]. Plts cont to trend
   down.
   - hold heparin
   -if PLT keep trending down will consider sending HIT
   - obtain HIV
   - continue to monitor
   ICU Care
   Nutrition:
   Comments: ADAT, IVF PRN, replete lytes PRN
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2162-5-20**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-05-22 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday.  Has been experiencing hallucinations/delusions
   overnight.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2162-5-21**] 04:00 PM
   Pantoprazole (Protonix) - [**2162-5-22**] 08:00 AM
   Lorazepam (Ativan) - [**2162-5-22**] 08:30 AM
   Other medications:
   Keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2162-5-22**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 82 (63 - 95) bpm
   BP: 143/93(106) {118/77(86) - 148/97(107)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,723 mL
                                                                  1,187 mL
   PO:
                                                                    240 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  1,483 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,050 mL
   Urine:
                                                                  2,010 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   SpO2: 100%
   ABG: ///23/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): States he is at a T station. Oriented to [**2162-5-21**],
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   54 K/uL
   103 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   4 mg/dL
   100 mEq/L
   131 mEq/L
   31.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2162-5-20**]  03:35 AM
                             [**2162-5-20**]  11:33 AM
                             [**2162-5-20**]  06:38 PM
                             [**2162-5-21**]  05:00 AM
                             [**2162-5-22**]  03:37 AM
   WBC
   2.1
   2.8
   4.0
   Hct
   32.3
   31.6
   31.2
   31.1
   Plt
   81
   64
   54
   Cr
   0.5
   0.5
   0.5
   TCO2
   29
   Glucose
   101
   89
   103
   Other labs: PT / PTT / INR:13.1/34.0/1.1, CK / CKMB / Troponin-T:207//,
   ALT / AST:89/107, Alk Phos / T Bili:278/0.9, Amylase / Lipase:92/193,
   Differential-Neuts:52.8 %, Lymph:42.2 %, Mono:3.4 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:325 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Imaging: None
   Microbiology: UCx:  [**2153**] cfu GPC
   Assessment and Plan
   41-yo man w/ EtOH abuse and h/o withdrawal seizures, as well as ?
   underlying seizure d/o presents with seizure in the setting of etoh
   level of 100.
   #. Seizure
 Agree Likely [**2-22**] EtOH withdrawal given, but the pt does
   have an underlying seizure d/o and previously treated w/ Dilantin and
   transitioning to keppra
   -Continue dilantin-->keppra transition
   -Continue seizure precautions
   #. EtOH abuse - chronic.
   - banana bag daily
   -Thiamine 100mg IV x 3 days/MVI/Folate
   - SW saw patient, he's not able to discuss his drinking at this time.
   -PRN ativan for CIWA scale
   #. Pancytopenia
 hx of leukopenic and thrombocytopenic, as well as
   anemic on repeat bloodwork. Considering that all cell lines down,
   likely bone marrow suppression [**2-22**] chronic EtOH abuse. ?HIT vs other
   med effect (?dilantin vs keppra).  Retic count 1.7.
   -Will check HIV when able to consent
   -Check HIT
   #abnormal LFTs-Hx of Hep C
   -Suspect etoh and Hep c
   #FEN:  Mild hyponatremia
   -Check urine lytes
   -ADAT
   -Bannana bag
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-5-20**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes